US06890940B2
3,5-Dimethoxy-4-(2,2,2-trifluoroethoxy)phenylboronic acid
Applying the synthetic procedure of 4-ethoxy-3,5-dimethoxyphenylboronic acid from 4-ethoxy-1-iodo-3,5-dimethoxybenzene in Reference Example 3, the title compound was prepared as a colorless amorphous powder (369.0 mg, yield: 48%) from 1-iodo-3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)-benzene (1.00 g, 2.76 mmol).

reactant | 4-ethoxy-3,5-dimethoxyphenylboronic acid | C(C)OC1=C(C=C(C=C1OC)B(O)O)OC | C10H15BO5
reactant | 4-ethoxy-1-iodo-3,5-dimethoxybenzene | C(C)OC1=C(C=C(C=C1OC)I)OC | C10H13IO3
reactant | 1-iodo-3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)-benzene | 2.76 mmol, 1.00 g | IC1=CC(=C(C(=C1)OC)OCC(F)(F)F)OC | C10H10F3IO3
product | 3,5-Dimethoxy-4-(2,2,2-trifluoroethoxy)phenylboronic acid | COC=1C=C(C=C(C1OCC(F)(F)F)OC)B(O)O | C10H12BF3O5
